US06818772B2
cis-4-chloro-N-{4-((7-chloroquinolin-4-yl)amino)cyclohexyl}benzenesulfonamide
A solution of N-(7-chloroquinolin-4-yl)-cyclohexane-1,4-diamine (20 mg, 0.07 mmol) in pyridine (1.0 mL) at 20 C was treated with 4-chlorobenzenesulfonyl chloride (15 mg, 0.07 mmol). The reaction was shaken at room temperature for 18 hours then concentrated. The crude compound was purified by reverse phase HPLC to provide the desired compound. MS (ESI (+)) m/e 450 (M+H)+; 1H NMR (500 MHz, DMSO) δ ppm 8.88 (d, 1 H), 8.71 (d, 1 H), 8.53 (d, 1 H), 7.93 (d, 1 H), 7.87 (d, 2 H), 7.81 (dd, 1 H), 7.70 (d, 3 H), 6.95 (d, 1 H), 3.86 (br.s, 1 H), 3.14 (m, 1 H), 1.89 (m, 2 H), 1.74 (m, 4 H), 1.58 (m, 2 H).

reactant | N-(7-chloroquinolin-4-yl)-cyclohexane-1,4-diamine | 0.07 mmol, 20 mg | ClC1=CC=C2C(=CC=NC2=C1)NC1CCC(CC1)N | C15H18ClN3
reactant | 4-chlorobenzenesulfonyl chloride | 0.07 mmol, 15 mg | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | pyridine | 1.0 mL | N1=CC=CC=C1 | C5H5N
product | cis-4-chloro-N-{4-((7-chloroquinolin-4-yl)amino)cyclohexyl}benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)N[C@@H]1CC[C@@H](CC1)NC1=CC=NC2=CC(=CC=C12)Cl | C21H21Cl2N3O2S
